US08420647B2
b) 4-(2,5-Dichloro-phenoxy)-pyrimidine-5-carboxylic acid ethyl ester
To a solution of 420 mg (2.25 mmol) 4-chloropyrimidine-5-carboxylic acid ethyl ester (commercially available, CAS RN 41103-17-7) and 440 mg (2.7 mmol) 2,5-dichlorophenol (commercially available, CAS RN 583-78-8) in 2.5 mL toluene were added 688 mg (5.17 mmol) cesium carbonate and 168 mg (0.45 mmol) tetrakis(acetonitrile) copper(I) hexafluorophosphate (commercially available, CAS RN 64443-05-6). The reaction was heated to reflux for 2.5 h. The solvent was evaporated and the crude reaction product extracted with ethyl acetate from an aqueous saturated solution of sodium bicarbonate. The organic layer was dried over magnesium sulfate, filtered and evaporated. The resulting product was purified by silica gel chromatography using a MPLC system (silica gel column, CombiFlash Companion, Isco Inc.) eluting with a gradient of n-heptane:ethyl acetate yielding 620 mg (88%) of the desired compound as a light yellow viscous oil. MS (ESI): m/z=313.1 [M+H]+.

reactant | 4-chloropyrimidine-5-carboxylic acid ethyl ester | 2.25 mmol, 420 mg | C(C)OC(=O)C=1C(=NC=NC1)Cl | C7H7ClN2O2
reactant | 2,5-dichlorophenol | 2.7 mmol, 440 mg | ClC1=C(C=C(C=C1)Cl)O | C6H4Cl2O
reactant | cesium carbonate | 5.17 mmol, 688 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | toluene | 2.5 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(acetonitrile) copper(I) hexafluorophosphate | 0.45 mmol, 168 mg | F[P-](F)(F)(F)(F)F.[Cu+].C(C)#N.C(C)#N.C(C)#N.C(C)#N
product | 4-(2,5-Dichloro-phenoxy)-pyrimidine-5-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=NC=NC1)OC1=C(C=CC(=C1)Cl)Cl | C13H10Cl2N2O3
